US04645774
α-Ethyl-α-(3-chlorophenyl)-4-[2-(dimethylamino)-ethoxy]-benzylalcohol
To a Grignard reactant prepared from 2.2 g. of magnesium turnings and 23.4 g. of 4-[2-(dimethylamino)-ethoxy]-bromobenzene in 100 ml. of dry tetrahydrofurane a solution of 10 g. of m-chloro-propiophenone in 30 ml. of tetrahydrofurane is added dropwise, at 20° C. The reaction mixture is stirred at room temperature for another two hours, cooled, and filtered onto a 20% aqueous ammonium chloride solution. Tetrahydrofurane is distilled off in vacuo. The residue is extracted with ether, the ethereal phase is washed with water, dried over anhydrous magnesium sulfate, filtered, and ether is distilled off. Crystallization of the residue from a mixture of n-hexane and ethyl acetate yields 14.2 g. of the named compound, melting at 108° to 109° C.

reactant | magnesium | [Mg] | Mg
reactant | 4-[2-(dimethylamino)-ethoxy]-bromobenzene | CN(CCOC1=CC=C(C=C1)Br)C | C10H14BrNO
reactant | m-chloro-propiophenone | ClC=1C=C(C=CC1)C(CC)=O | C9H9ClO
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | α-Ethyl-α-(3-chlorophenyl)-4-[2-(dimethylamino)-ethoxy]-benzylalcohol | C(C)C(C1=CC=C(C=C1)OCCN(C)C)(C1=CC(=CC=C1)Cl)O | C19H24ClNO2
